US04863958
A mixture of 2-(p-methoxybenzoyl)-3-methyl-4-hydroxybenzofuran (0.60 gm; 2.2 mmoles), potassium carbonate (0.83 gm; 6.0 mmoles) and allyl bromide (0.73 gm; 6.0 mmoles) in acetone (25 mL) was refluxed for a period of 22 hours. The reaction mixture was cooled, filtered through Celite, and concentrated in vacuo. The residue was chromatographed on silica gel using 15% ethylacetate in hexane as eluent to yield 2-(p-methoxybenzoyl)-3-methyl-4-allyloxybenzofuran.

reactant | 2-(p-methoxybenzoyl)-3-methyl-4-hydroxybenzofuran | 2.2 mmoles, 0.60 gm | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3)O)C=C1 | C17H14O4
reactant | potassium carbonate | 6.0 mmoles, 0.83 gm | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 6.0 mmoles, 0.73 gm | C(C=C)Br | C3H5Br
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 2-(p-methoxybenzoyl)-3-methyl-4-allyloxybenzofuran | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3)OCC=C)C=C1 | C20H18O4
